US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-N4-(3,4-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine with 3-hydroxyaniline gave N4-(3,4-dimethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.77 (d, 1H, J=3.3 Hz), 7.15 (d, 1H, J=2.4 Hz), 7.05 (dd, 1H, J=2.4 and 8.4 Hz), 7.00–6.90 (m, 4H), 6.80 (d, 1H, J=8.1 Hz), 6.40 (m, 1H), 4.05 (q, 2H), 3.80 (s, 3H), 3.75 (s, 3H), 1.20 (t, 3H); 19F NMR (CD3OD): −47223; LCMS: ret. time: 17.94 min.; purity: 99%; MS (m/e): 357 (MH+).

reactant | 2-chloro-N4-(3,4-dimethoxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)OC)F | C12H11ClFN3O2
reactant | 3-hydroxyaniline | OC=1C=C(N)C=CC1 | C6H7NO
product | N4-(3,4-dimethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | COC=1C=C(C=CC1OC)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H17FN4O3
